US06150373
Under an atmosphere of nitrogen, a stirred suspension of 1.6 g (24 mg.atom) of zinc dust (<10 micron diameter) in 20 ml of dimethylformamide was treated with 0.11 ml (1.2 mmol) of 1,2-dibromoethane and the mixture was heated to 60° C. then allowed to cool to room temperature. The heating and cooling was repeated twice more. 0.04 ml (0.24 mmol) of chlorotrimethylsilane was added and the mixture stirred at ambient temperature for 30 minutes. The mixture was then treated with 1.26 g (4 mmol) of N-(3-iodopropyl)phthalimide and the resulting suspension stirred for 30 minutes at ambient temperature and then heated at 35° C. for 1 hour and cooled. To the mixture were then added sequentially 750 mg (3 mmol) of 1-iodo-3-nitrobenzene, 60 mg (0.06 mmol) of tris(dibenzylideneacetone)dipalladium and 70 mg (0.23 mmol) of tri(o-tolyl)phosphine and the resulting mixture stirred at ambient temperature for 1 hour. The suspension was filtered and the filtrate diluted with 50 ml of ethyl acetate, washed twice with 40 ml of water, dried over magnesium sulfate, filtered and evaporated. The product was purified by flash chromatography on silica gel using ethyl acetate/isohexane in a ratio of 1:2 as eluent. Product containing fractions were combined and evaporated to give 190 mg (20%) of 2-[3-(3-nitrophenyl)-propyl]-isoindole-1,3-dione as a pale pink solid. [Mass spectrum (ESI) MH+ =311].

reactant | 1,2-dibromoethane | 1.2 mmol, 0.11 ml | BrCCBr | C2H4Br2
reactant | chlorotrimethylsilane | 0.24 mmol, 0.04 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | N-(3-iodopropyl)phthalimide | 4 mmol, 1.26 g | ICCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10INO2
reactant | 1-iodo-3-nitrobenzene | 3 mmol, 750 mg | IC1=CC(=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | tri(o-tolyl)phosphine | 0.23 mmol, 70 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 1.6 g | [Zn] | Zn
catalyst | tris(dibenzylideneacetone)dipalladium | 0.06 mmol, 60 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-[3-(3-nitrophenyl)-propyl]-isoindole-1,3-dione | 190 mg, 20% | [N+](=O)([O-])C=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C17H14N2O4
